US06638929B2
7-{[2-(4-Morpholinyl)ethyl]amino}-6-nitro-4-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,4-dihydro-3-quinolinecarbonitrile
A mixture of 1.25 g (3.29 mmol) of 7-chloro-6-nitro-4-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,4-dihydro-3-quinolinecarbonitrile and 1.07 g (8.2 mmol) of 4-(2-aminoethyl)-morpholine in 21 mL of acetonitrile is heated at reflux temperature for 17 hours. After cooling, the mixture is concentrated under reduced pressure and the residue is partitioned between methylene chloride and brine. The separated organic layer is dried over sodium sulfate and filtered. Removal of the solvent yields a residue which is flash chromatographed (elution with methylene chloride, then a gradient of 99:1 to 98:2 methylene chloride/methanol), giving 966 mg (61.9%) of the product as a yellow solid, mp 294-216° C.

reactant | 7-chloro-6-nitro-4-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,4-dihydro-3-quinolinecarbonitrile | 3.29 mmol, 1.25 g | ClC1=C(C=C2C(C(=CN(C2=C1)COCC[Si](C)(C)C)C#N)=O)[N+](=O)[O-] | C16H18ClN3O4Si
reactant | 4-(2-aminoethyl)-morpholine | 8.2 mmol, 1.07 g | NCCN1CCOCC1 | C6H14N2O
solvent | acetonitrile | 21 mL | C(C)#N | C2H3N
product | 7-{[2-(4-Morpholinyl)ethyl]amino}-6-nitro-4-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,4-dihydro-3-quinolinecarbonitrile | 966 mg, 61.9% | N1(CCOCC1)CCNC1=C(C=C2C(C(=CN(C2=C1)COCC[Si](C)(C)C)C#N)=O)[N+](=O)[O-] | C22H31N5O5Si
